US04521422
N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide
A 30.0 g portion of 3-acetamidoacetophenone was heated with 50 ml of dimethylformamide dimethylacetal on a steam bath under inert atmosphere for 8 hours. After cooling, the precipitated material was collected by filtration to yield the desired material as orange crystals (37.20 g, mp 184°-185° C.).

reactant | 3-acetamidoacetophenone | CC(=O)C1=CC(=CC=C1)NC(=O)C | C10H11NO2
reactant | dimethylformamide dimethylacetal | 50 ml | COC(N(C)C)OC | C5H13NO2
product | N-[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | 37.20 g | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
